US05786358
To a mixture of 150 mg of N-[5-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl)thien-2-ylsulfonyl]glycine ethyl ester in 25 mL of glacial acetic acid was added 100 mg of platinum oxide. This mixture was stirred under hydrogen for 24 hours and an additional 100 mg of platinum oxide was added. The hydrogenation was resumed for another 24 hours and the reaction mixture was then filtered through Celite® and the filtrate concentrated in vacuo. The residue was flash chromatographed on silica gel using 3.5% CH3OH and chloroform to give 48 mg of N-{5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylsulfonyl}glycine ethyl ester as a white solid. 1H NMR (300 MHz, DMSO-d6, δ1.10 (t, J=7 Hz, 3H), 1.17 (s, 9H), 1.62 (m, 3H), 1.90 (m, 1H), 2.52 (m, 1H), 2.91 (m, 3H), 3.25 (m, 1H), 3.68 (d, J=4.9 Hz, 2H), 3.97 (q, J=7 Hz, 2H), 6.45 (s, 1H), 6.92 (d, J=3.5 Hz, 1H, 7.38 (d, J=3.5 Hz, 1H), 8.31 (t, J=4.9 Hz, 1H).

reactant | N-[5-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl)thien-2-ylsulfonyl]glycine ethyl ester | 150 mg | C(C)OC(CNS(=O)(=O)C=1SC(=CC1)C#CC1=CC2=C(N=C(N=C2O)NC(C(C)(C)C)=O)N=C1)=O | C22H23N5O6S2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 100 mg | [Pt]=O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | N-{5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylsulfonyl}glycine ethyl ester | 48 mg | C(C)OC(CNS(=O)(=O)C=1SC(=CC1)CCC1CC2=C(N=C(N=C2O)NC(C(C)(C)C)=O)NC1)=O | C22H31N5O6S2
